US05556860
Synthesis of 3-(pyrrolidin-2-yl)methyl-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 15.98 g (40.2 mmol) of 3-(1-benzylpyrrolidin-2-yl)methyl-4-phenyl-3,4-dihydro-2(1H)-quinazolinone in 300 mL ethanol were added 13.61 g (216 mmol) of ammonium formate and 1.64 g of 10 % palladium-carbon, and the mixture was heated under reflux for 5 hours. After being cooled, the reaction mixture was filtered through cerite, and the filtrate was concentrated in vacuo. To the residue was added an aqueous saturated sodium hydrogencarbonate solution, and the mixture was extracted with chloroform. The organic layer separated was dried on potassium carbonate, and then concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 5:100:900 aqueous ammonia methanol:chloroform) to give 9.32 g (30.3 mmol) of the title compound as an about 1:1 mixture of the diastereomers.

reactant | 3-(1-benzylpyrrolidin-2-yl)methyl-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 40.2 mmol, 15.98 g | C(C1=CC=CC=C1)N1C(CCC1)CN1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C26H27N3O
reactant | ammonium formate | 216 mmol, 13.61 g | C(=O)[O-].[NH4+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 1.64 g | [C].[Pd]
product | 3-(pyrrolidin-2-yl)methyl-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 30.3 mmol, 9.32 g | N1C(CCC1)CN1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C19H21N3O
